US06562978B1
1-tert-Butoxycarbonyl-4-(2-benzothiazolylthio)piperidine
By a similar manner to Reference Example 35, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with 2-mercaptobenzothiazole (1.00 g, 6.0 mmol) to give the titled compound as a colorless oily substance (1.54 g, 88%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-mercaptobenzothiazole | 6.0 mmol, 1.00 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
product | 1-tert-Butoxycarbonyl-4-(2-benzothiazolylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1SC2=C(N1)C=CC=C2 | C17H22N2O2S2
